* C:\Users\Lin Hein\UCSD-Cansat-2016-17\hardware\sim\sim1.asc
I1 0 N002 PULSE(0.01 200m 0 0.1 1m .5 2)
D2 N006 N001 d_schottky
C1 N006 0 10MEG
Q1 N001 N003 N006 0 NPN
XU1 N004 N001 N003 opamp Aol=100K GBW=10Meg
D3 N004 0 BZX84-A3V6
R1 N001 N004 100k
C2 N001 0 1
C3 N005 0 1
XU2 N001 N005 N005 0 LP38691_3P3_TRANS
D4 P001 N001 d_schottky
R2 N003 0 100K
I2 N005 0 100m
R3 N002 0 24
R4 P001 N002 10
.model D D
.lib C:\Users\Lin Hein\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\Lin Hein\Documents\LTspiceXVII\lib\cmp\standard.bjt
.tran 2
.lib opamp.sub
.model d_schottky D(Ron=.1n Roff=1G Vfwd=0.2)
.lib .\BZX84-A3V6.prm
.lib .\lp38691_3p3_trans.lib
.backanno
.end
